datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH2:10][CH+:11][CH2:62][Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;20,21=21"
"C[C:11](C1CC1)=[CH2:10].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[C+:11](C1CC1)[CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1.C[Si:11](C)([H:10])[O:62][Si:63](C)(C)C>>C[O:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1.C[Si+:11](C)[O:62][Si:63](C)(C)C 10,11=10,20;20,21=21"
"C1C[C:20](=[O:21])C1.CN1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1>>CN1CC[N+:12](=[C:11]2CCCC[CH:10]2[C:20]2([O-:21])CCC2)CC1 10,11=10,20;12=11,12;20,21=21"
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.C[N:72](C)[C:61]([S-:10])=[S:62]>>C[N:72](C)[C:61]([S:10][CH:20]1[C:21](C[N+]23CCN(CC2)CC3)=[C:22]([O-:23])O[C:32]2=[C:31]1[CH:36]=[CH:35][CH:34]=[CH:33]2)=[S:62] 10=20;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[Si](C)(C)[N:62]1[CH:61]=[N:10][CH:64]=[CH:63]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([N+:10]2=[CH:61][N:62]([Si](C)(C)C)[CH:63]=[CH:64]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72].C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32]>>CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[CH:20]1[CH:21]=[C:22]([O-:23])[N:43](C)[C:31]1=[O:32])=[O:72] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.C1=CC=C(C[NH2:10])C=C1>>C1=CC=C(C[NH2+:10][CH:20](C2=CC=CC=C2)[CH:21]=[C:22]=[N-:23])C=C1 10=20;20,21=21,22;22,23=23"
"C=C(C)CCCC[C:11](C)=[CH2:10].COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1>>C=C(C)CCCC[C+:11](C)[CH2:10][CH:20]([CH:21]=[C:22](C1=[N+](C2=C(OC)C=CC=C2OC)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.Cl[Zn-:11](Cl)[CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2>>C1CC[C-:21]([O:20][CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:76]=[CH:75][CH:74]=[CH:73]3)C1.Cl[Zn:11]Cl 10,11=10,20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][C:11](=[NH+:12]C(=O)OCC1=CC=CC=C1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)[O-:12].[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>CC[O:72][C:11]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12"
"CC1=CC=C([S:32](/[CH:21]=[CH:20]/C2=CC=CC=C2)(=[O:33])=[O:34])C=C1.[CH:10]1=[C:11]([O-:12])[NH:82][C:73](=[O:74])[NH:82][C:61]1=[O:62]>>CC1=CC=C([S:32]([CH-:21][CH:20](C2=CC=CC=C2)[CH:10]2[C:11](=[O:12])[NH:82][C:73](=[O:74])[NH:82][C:61]2=[O:62])(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:72][P:61]([CH:10]=[C:11]([O-:12])[O:93]CC)(=[O:62])[O:82]CC.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][P:61]([CH:10]([C:11](=[O:12])[O:93]CC)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)(=[O:62])[O:82]CC 10,11=10,20;12=11,12"
